US04073799
In accordance with the process of Example 2, 3-oxo-5-trimethylsilyloxy-6-heptenoic acid methyl ester (360 mg; 1.47 m mol), p-toluenesulfonyl azide(290 mg; 1.47 m mol) and triethylamine (150 mg; 147 m mol) were used as starting materials to obtain 330 mg of 2-diazo-3-oxo-5-trimethylsiloxy-6-heptenoic acid methyl ester as yellow oily product.

reactant | 3-oxo-5-trimethylsilyloxy-6-heptenoic acid methyl ester | 360 mg | COC(CC(CC(C=C)O[Si](C)(C)C)=O)=O | C11H20O4Si
reactant | p-toluenesulfonyl azide | 290 mg | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | triethylamine | 150 mg | C(C)N(CC)CC | C6H15N
product | 2-diazo-3-oxo-5-trimethylsiloxy-6-heptenoic acid methyl ester | 330 mg, Yield: 83% | COC(C(C(CC(C=C)O[Si](C)(C)C)=O)=[N+]=[N-])=O | C11H18N2O4Si
